US07790739B2
Step 2: 2-[(2-methyl-5-phenylpyridin-3-yl)carbonyl]-3-furaldehyde
To a mixture of S-(4-methylphenyl) 2-methyl-5-phenylpyridine-3-carbothioate (66 mg, 0.20 mmol), Cu(I) thiophene-2-carboxylate (59 mg, 0.31 mmol), 3-formylfuran-2-boronic acid (31 mg, 0.22 mmol), Pd2dba3.CHCl3 (2 mg, 0.002 mmol), and tri-2-furylphosphine (1.4 mg, 0.006 mmol) was added THF (2.5 mL). The reaction mixture was heated to 50° C. for 15 h, cooled to room temperature, diluted with EtOAc, and washed with 1 N HCl and brine. The organic layer was concentrated and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 10.60 (s, 1H); 8.91 (s, 1H); 8.02 (s, 1H); 7.40-7.61 (series of m, 6H); 7.05 (s, 1H); 2.66 (s, 3H). LRMS (ESI) calc'd for C18H13NO3 [M+H]+, 292.1. found 292.1.

reactant | S-(4-methylphenyl) 2-methyl-5-phenylpyridine-3-carbothioate | 0.20 mmol, 66 mg | CC1=NC=C(C=C1C(SC1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C20H17NOS
reactant | 3-formylfuran-2-boronic acid | 0.22 mmol, 31 mg | C(=O)C1=C(OC=C1)B(O)O | C5H5BO4
reactant | CHCl3 | 0.002 mmol, 2 mg | C(Cl)(Cl)Cl | CHCl3
reactant | tri-2-furylphosphine | 0.006 mmol, 1.4 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-[(2-methyl-5-phenylpyridin-3-yl)carbonyl]-3-furaldehyde | CC1=NC=C(C=C1C(=O)C=1OC=CC1C=O)C1=CC=CC=C1 | C18H13NO3
